data/pmechdb/original/mc_train_fold0/raw/train.txt
[N:20](=[O:10])[OH2+:21].[B-](F)(F)(F)F.CCCCCC1=CC2CC(C1O2)(CN)O.CCCC1=CC2CC(C1O2)(CN)O.CCC1=CC2CC(C1O2)(CN)O.CC1=CC2CC(C1O2)(CN)O.CC(C)CC1=CC2CC(C1O2)(CN)O.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)N.C1CCC(CC1)C2=CC3CC(C2O3)(CN)O.C1CCC(CC1)(CN)O.C1CCC(C(C1)CN)O.C1C2C=CC(C1(CN)O)O2.C1=CN=C(C(=C1)N)Cl.O.OS(=O)(=O)[O-].[O-]S(=O)(=O)[O-].[Na+].[Cl-].[Br-]>>[N:20]#[O+:10].[OH2:21].[B-](F)(F)(F)F.CCCCCC1=CC2CC(C1O2)(CN)O.CCCC1=CC2CC(C1O2)(CN)O.CCC1=CC2CC(C1O2)(CN)O.CC1=CC2CC(C1O2)(CN)O.CC(C)CC1=CC2CC(C1O2)(CN)O.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)N.C1CCC(CC1)C2=CC3CC(C2O3)(CN)O.C1CCC(CC1)(CN)O.C1CCC(C(C1)CN)O.C1C2C=CC(C1(CN)O)O2.C1=CN=C(C(=C1)N)Cl.O.OS(=O)(=O)[O-].[O-]S(=O)(=O)[O-].[Na+].[Cl-].[Br-] 10=20;20,21=21
[H:20][C:21]1(C2CC(C2(C)C)C[C:22]1=[NH2+:23])CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4.CC(=O)[O-:10].O.[I-]>>[H:20][O:10]C(=O)C.CC1(C2CC1[C:21](=[C:22](C2)[NH2:23])CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C.O.[I-] 10=20;22,23=23;20,21=21,22
C[O+:25]=[C:24]1[CH:23]=[CH:22][C:21]2(C[CH2:20]2)C=C1C3CCCCC3.C(=[O:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[O:25][C:24]1=[CH:23][CH:22]=[C:21](C=C1C2CCCCC2)C[CH2:20][O+:10]=CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][OH+:21]C.CO[P:10](Cl)Cl>>[H:20][P+:10](OC)(Cl)Cl.C[OH:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CCC(CC1)(N2CCCCC2)[OH:10]>>[H:20][OH+:10]C1(CCCCC1)N2CCCCC2.OS(=O)(=O)[O-:21] 10=20;20,21=21
CN(C)[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br.[Br:20][Br:21]>>CN(C)[C+:13]1C=C[CH:10]([CH:11]=[C:12]1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
C[CH:20]([N:10](C)C)[F:21]>>C[CH:20]=[N+:10](C)C.[F-:21] 10=20;20,21=21
CC(=O)OCC1C(C(C(C(O1)[O+](C2=CC=C(C=C2)OC)[K:20])OC(=O)C)OC(=O)C)OC(=O)C.[Cl-:10].CCO>>CC(=O)OCC1C(C(C(C(O1)[O+](C2=CC=C(C=C2)OC)[K-:20][Cl:10])OC(=O)C)OC(=O)C)OC(=O)C.CCO 10=20,
[B:20](C1=C(N=CC=C1)Cl)(O)OC(C)C.[OH-:10].[Li+].CC(C)[O-]>>[B-:20](C1=C(N=CC=C1)Cl)(O)([OH:10])OC(C)C.[Li+].CC(C)[O-] 10=20,
C[C:20](C)([O:10]C)[Br:21]>>C[C:20](=[O+:10]C)C.[Br-:21] 10=20;20,21=21
C[CH+:20][NH2:10]>>C[CH:20]=[NH2+:10] 10=20,
[H:20][N+:21]#CCC.C[C:10](=C)[Mg:11]Br>>[H:20][C:10](=C)C.CCC#[N:21].[Mg+:11]Br 10,11=10,20;20,21=21
CCC(C)C(C(=O)NCCC(=O)O)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NCCC(=O)O)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
C(=CNC(=N)[NH2:10])[C:20]#[NH+:21].[C-]#N.O>>C1=CNC(=N)[NH2+:10][C:20]1=[NH:21].[C-]#N.O 10=20;20,21=21
[H:20][NH+:21](C(C(C)C)C(=O)O)C(CC)(CCC1(C(=O)CCC1=O)C)O.CC(C)C(C(=O)[O-:10])N>>[H:20][O:10]C(=O)C(C(C)C)N.CCC(CCC1(C(=O)CCC1=O)C)([NH:21]C(C(C)C)C(=O)O)O 10=20;20,21=21
[B:20](CCCC)(CCCC)OC(C1=CC=CC=C1)C(C)C(=O)N2C(COC2=O)CC3=CC=CC=C3.O[OH:10]>>[B-:20](CCCC)(CCCC)([OH+:10]O)OC(C1=CC=CC=C1)C(C)C(=O)N2C(COC2=O)CC3=CC=CC=C3 10=20,
[H:20][OH2+:21].CP(=[O:10])(C)C>>[H:20][O+:10]=P(C)(C)C.[OH2:21] 10=20;20,21=21
CC(=O)[O:21][C:20](CCC=O)(C#N)[O-:10]>>CC(=O)[O-:21].C(C[C:20](=[O:10])C#N)C=O 10=20;20,21=21
[H:20][O:21]C.C(=O)([O-:10])O[K].CC(=O)OC1=CC=CC=C1>>[H:20][O:10]C(=O)O[K].C[O-:21].CC(=O)OC1=CC=CC=C1 10=20;20,21=21
[H:20][Br:21].CC[O:10]C1=CC=CC=C1>>[H:20][O+:10](CC)C1=CC=CC=C1.[Br-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(O)OC(=O)C.[OH2:10]>>CC(=O)OC(C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
CC(C(=C)C(=O)OC)[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1CC(=O)NC1=O>>CC(C(=C)C(=O)OC)[O:10][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1CC(=O)NC1=O 10=20,
C[NH:10]N.C1=CC(=CC=C1[CH2:20][Cl:21])C#N>>C[NH+:10]([CH2:20]C1=CC=C(C=C1)C#N)N.[Cl-:21] 10=20;20,21=21
[H:20][OH2+:21].[Li:11][O:10]C(C)(C1=CC=CC=C1)C2=CC=CC=C2>>[H:20][O:10]C(C)(C1=CC=CC=C1)C2=CC=CC=C2.[Li+:11].[OH2:21] 10,11=10,20;20,21=21
CCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC)O>>CCC1=CC=C[N:21]=C1.COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
C(C[CH2:20][Br:21])C[O-:10]>>C1CC[O:10][CH2:20]1.[Br-:21] 10=20;20,21=21
[B-:10]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(O)[OH+:11]C(CC2(C(CCC3(C2CCC=C3COCC4=CC=C(C=C4)OC)C)C)C)C(=C)C=C.[OH-].[Na+]>>[B:10]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)O.CC1CCC2(C(C1(C)CC(C(=C)C=C)[OH:11])CCC=C2COCC3=CC=C(C=C3)OC)C.[OH-].[Na+] 10,11=11
[CH+:20]([OH:10])[S-]>>[CH:20](=[OH+:10])[S-] 10=20,
[H:20][C:21]12CN(CC[C:22]1=[O+:23]C(=C2)C3=CC=CC=C3)CC4=CC=CC=C4.[OH2:10].[Cl-]>>[H:20][OH2+:10].C1CN(C[C:21]2=[C:22]1[O:23]C(=C2)C3=CC=CC=C3)CC4=CC=CC=C4.[Cl-] 10=20;22,23=23;20,21=21,22
[B:20]([O+]=C(C)CCC)(F)F.[F-:10]>>[B-:20]([O+]=C(C)CCC)(F)(F)[F:10] 10=20,
[H:20][NH+:21]1CCCC1.CC1(C(=O)CCCC1=O)CCC(C)(N2CCCC2)[O-:10]>>[H:20][O:10]C(C)(CCC1(C(=O)CCCC1=O)C)N2CCCC2.C1CC[NH:21]C1 10=20;20,21=21
[H:20][C:21]12C=C[C:24](=[O+:25]C)[CH:23]=[C:22]1CCN3C2C(C(C3=O)SC)(C)C(=O)OC.[OH2:10]>>[H:20][OH2+:10].CC1(C2[C:21]3=[C:22](CCN2C(=O)C1SC)[CH:23]=[C:24](C=C3)[O:25]C)C(=O)OC 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][O:21]S(=O)(=O)O.CC(C)(O)[O:10]C1=CC=CC=C1>>[H:20][O+:10](C1=CC=CC=C1)C(C)(C)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
